US05272128
B: 5-Chloro-3-isopropyl-1-methylpyrazole
The 5-hydroxy-3-isopropyl-1-methylpyrazole (20.5 g) was added in small portions over five minutes to 60 ml of phosphorus oxychloride cooled at 10 C. No significant exotherm resulted and after five minutes the cooling bath was removed. After stirring for one hour, the reaction was heated to 70 C. overnight and then 90 C. for four hours. The cooled reaction was cautiously added to 500 g of ice. The desired product was extracted with two 200 ml portions of ethyl acetate and the combined extracts were concentrated under reduced pressure to yield 13.7 g of the desired product as an oil.

reactant | 5-hydroxy-3-isopropyl-1-methylpyrazole | 20.5 g | OC1=CC(=NN1C)C(C)C | C7H12N2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Chloro-3-isopropyl-1-methylpyrazole | 13.7 g | ClC1=CC(=NN1C)C(C)C | C7H11ClN2
